Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.42470773344
[O:1][C:2]1([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C@@:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15],-0.272088439249
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.06095280901
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[H:1][C:2]=[O:3],0.188437437789
[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-7.78316372212
[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.7817753124000002
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.83730309493
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],2.6803916717900003
[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-3.54133308398
[C:1]#[C:2][C:3]#[C:4][C:7](=[C:5][H:6])[H:8]>>[C:1]#[C:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[H:8],-1.17259851815
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]#[C:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-1.94672951071
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],6.2602768514600005
[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.563034104880001
[C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-0.5950532120009999
[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],0.499274234482
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])[C:9][H:10],3.52229299166
[H:1][C:2][C:3]([C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[O:10][H:11]>>[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],-0.2439770350589999
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.1676679533499998
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[H:5],1.51132772364
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[H:8],0.94361078012
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],2.5385611496
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.96937950142
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11],-0.35262250573
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[O:8][H:9],1.49640545968
[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],1.27608423372
[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10],-7.57141702732
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],3.02983630642
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11],0.60253323804
